US09301951B2
3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(2,2,2-trifluoroethoxy)phenyl)carbamoyl)benzylthio)propanoic acid
Into a 50-mL round-bottom flask, was placed a solution of tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(2,2,2-trifluoroethoxy)phenyl)-carbamoyl)benzylthio)propanoate (200 mg, 0.27 mmol, 1.00 equiv) in dichloromethane (5 mL), and trifluoroacetic acid (2 mL). The resulting solution was stirred overnight at room temperature. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The crude product (200 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 68 mg (37%) of a light yellow solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 12.61 (s, 1H), 9.57-9.54 (m, 1H), 8.99-8.98 (m, 1H), 8.49-8.41 (m, 2H), 7.89-7.79 (m, 10H), 7.30-7.26 (m, 1H), 4.92-4.84 (dd, J=18 Hz, 9 Hz, 2H), 4.65-4.63 (d, J=5.4 Hz, 2H), 3.89 (s, 2H), 2.63-2.59 (m, 4H). MS (ES, m/z): 692 [M+H]+.

reactant | tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(2,2,2-trifluoroethoxy)phenyl)-carbamoyl)benzylthio)propanoate | 0.27 mmol, 200 mg, 1.00 equiv | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)OCC(F)(F)F)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=CC1)(F)F | C37H35F6N3O5S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(2,2,2-trifluoroethoxy)phenyl)carbamoyl)benzylthio)propanoic acid | 68 mg, 37% | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)OCC(F)(F)F)NC(=O)C=2C=C(CSCCC(=O)O)C=CC2)C=CC1)(F)F | C33H27F6N3O5S
